US08623889B2
Step 2: N-(2-(2-chlorophenyl)-1,7-naphthyridin-6-yl)cyclopropanecarboxamide
A mixture of 6-chloro-2-(2-chlorophenyl)-1,7-naphthyridine (50 mg, 0.2 mmol), cyclopropanecarboxamide (27 mg, 0.32 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (16 mg, 0.03 mmol), palladium acetate (4 mg, 0.02 mmol), and cesium carbonate (118 mg, 0.36 mmol) in 1,4-dioxane (1 mL) was heated at 90° C. for 3 hours. The cooled reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (100 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by reverse phase HPLC (5-85% acetonitrile in water with 0.1% formic acid over 14 min) to afford the title compound as an off-white solid (15 mg, 20%). 1H NMR (400 MHz, CDCl3) δ 9.28 (s, 1H), 8.58 (s, 1H), 8.28 (s, 1H), 8.16 (d, J=8.6 Hz, 1H), 7.90 (d, J=8.6 Hz, 1H), 7.71 (m, 1H), 7.53 (m, 1H), 7.42 (m, 2H), 1.64 (m, 1H), 1.21-1.14 (m, 2H), 1.01-0.91 (m, 2H). LCMS (Method E): RT=4.970 min, M+H+=324.1.

reactant | 6-chloro-2-(2-chlorophenyl)-1,7-naphthyridine | 0.2 mmol, 50 mg | ClC=1C=C2C=CC(=NC2=CN1)C1=C(C=CC=C1)Cl | C14H8Cl2N2
reactant | cyclopropanecarboxamide | 0.32 mmol, 27 mg | C1(CC1)C(=O)N | C4H7NO
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.03 mmol, 16 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 0.36 mmol, 118 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.02 mmol, 4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(2-(2-chlorophenyl)-1,7-naphthyridin-6-yl)cyclopropanecarboxamide | 15 mg, 20% | ClC1=C(C=CC=C1)C1=NC2=CN=C(C=C2C=C1)NC(=O)C1CC1 | C18H14ClN3O
